US07041674B2
4.1.: tropenol benzhydrylcarbamate
2.5 g (0.012 mol) of diphenylmethylisocyanate is placed in 7 mL acetonitrile, a solution of 1.67 g (0.012 mol) of tropenol in 5 mL acetonitrile is added dropwise. The solution is stirred for 24 hours at ambient temperature; after 10 minutes, a white precipitate is formed. After the end of the reaction time, the suspension is cooled and the precipitate is suction filtered. Yield: 2.28 g (55% of theory); melting point: 140° C.-142° C.

reactant | diphenylmethylisocyanate | 0.012 mol, 2.5 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N=C=O | C14H11NO
reactant | tropenol | 0.012 mol, 1.67 g | [C@@]12(C=CC[C@H](CC1)N2C)O | C8H13NO
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | tropenol benzhydrylcarbamate | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)O[C@]12C=CC[C@H](CC1)N2C | C22H24N2O2
